US07671226B2
To a solution of 2-(2,3,4,5-tetramethylcyclopentadienyl)benzylalcohol (0.3 g, 1.3 mmol) in toluene (5.2 mL) was added dropwise a solution of tetrakis(dimethylamido)titanium (0.29 g, 1.3 mmol) in toluene (1.7 mL) at −30° C. The mixture was stirred for 30 min at room temperature and then at 110° C. for 5 hrs. The solvent was distilled off to give 2-(2,3,4,5-tetramethylcyclopentadienyl)benzyloxytitanium bis(dimethylamide) (0.30 g, yield 83.3%).

reactant | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzylalcohol | 1.3 mmol, 0.3 g | CC=1C(C(=C(C1C)C)C)C1=C(CO)C=CC=C1 | C16H20O
reactant | tetrakis(dimethylamido)titanium | 1.3 mmol, 0.29 g | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
solvent | toluene | 5.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzyloxytitanium bis(dimethylamide) | 0.30 g, yield 83.3% | C[N-]C.C[N-]C.CC=1C(C(=C(C1C)C)C)C1=C(CO[Ti+2])C=CC=C1 | InChI=1S/C16H19O.2C2H6N.Ti/c1-10-11(2)13(4)16(12(10)3)15-8-6-5-7-14(15)9-17;2*1-3-2;/h5-8,16H,9H2,1-4H3;2*1-2H3;/q3*-1;+3
